US08222263B2
A stirred mixture of (2-aminophenyl)(1-methylpiperidin-4-yl)methanone (1.10 g, 4.58 mmol), urea (550 mg, 9.17 mmol) and acetic acid (15 mL) was heated to overnight. The mixture was cooled to rt, neutralized with 1 N sodium hydroxide and concentrated to ˜10 mL on a rotary evaporator. The aqueous residue was extracted with ethyl acetate and the combined organics were dried over sodium sulfate, filtered and concentrated on a rotary evaporator to afford 4-(1-methylpiperidin-4-yl)quinazolin-2(1H)-one as a yellow solid (1.10 g, 97%).

reactant | (2-aminophenyl)(1-methylpiperidin-4-yl)methanone | 4.58 mmol, 1.10 g | NC1=C(C=CC=C1)C(=O)C1CCN(CC1)C | C13H18N2O
reactant | urea | 9.17 mmol, 550 mg | NC(=O)N | CH4N2O
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 4-(1-methylpiperidin-4-yl)quinazolin-2(1H)-one | 1.10 g, 97% | CN1CCC(CC1)C1=NC(NC2=CC=CC=C12)=O | C14H17N3O
